US04155913
1.5 g (0.00545 mol) of 7-chloro-1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepin-2-one are suspended in 40 ml of diethyleneglycol dimethyl ether, warmed to 75° C. with stirring and a mixture of 2.2 g of phosphorus pentasulphide and 1.5 g of sodium bicarbonate, which has been finely triturated, is added. The mixture is stirred for a further hour and the solvent is removed under vacuum. The remaining oil is treated with ice and water, the crystalline residue filtered under a vacuum and washed with a large amount of water. The precipitate is suspended in 150 ml of water and shaken out five times with 100 ml of methylene chloride each time. After drying over sodium sulphate, the organic phase is evaporated and the crystalline residue recrystallized from absolute methanol to yield 7-chloro-1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepine-2-thione which melts at 223°-225° C. (decomposition).

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepin-2-one | 0.00545 mol, 1.5 g | ClC1=CC2=C(NC(CN=C2C2=CC=CC=C2)=O)S1 | C13H9ClN2OS
reactant | phosphorus pentasulphide | 2.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium bicarbonate | 1.5 g | C([O-])(O)=O.[Na+]
solvent | diethyleneglycol dimethyl ether | 40 ml | COCCOCCOC | C6H14O3
product | 7-chloro-1,3-dihydro-5-phenyl-2H-thieno[2,3-e]-1,4-diazepine-2-thione | ClC1=CC2=C(NC(CN=C2C2=CC=CC=C2)=S)S1 | C13H9ClN2S2
